US07737279B2
A466.3: 1-(6-Bromo-pyridin-2-yl)-propylamine
Ethyl magnesium bromide (3.0 mL, 3.0 mmol) was added dropwise over 10 min to a solution of the pyridine nitrile A466.2 (500 mg, 2.75 mmol) in THF (5 mL) at room temperature under a nitrogen atmosphere. After strring for 30 min at room temperature, the reaction mixture was then cooled to 0° C. and anhydrous methanol added (2.75 mL) followed by sodium borohydride (15 mg, 3.0 mmol). The mixture was allowed to warm to room temperature over 1 hr before quenching with saturated ammonium chloride solution (10 mL) and stirring overnight at room temperature. The mixture was diluted with water (20 mL) and extracted with ethyl acetate (3×30 mL). The combined organics were dried (MgSO4), evaporated in vacuo and purified by column chromatography using 10% MeOH in ethyl acetate as eluant to yield A466.3 (237 mg). HPLC YMC S-5 4.6×33 mm (2 min grad): retention time 0.87 min, M+H+=217.15

reactant | Ethyl magnesium bromide | 3.0 mmol, 3.0 mL | C(C)[Mg]Br
reactant | pyridine nitrile | N1=C(C=CC=C1)C#N | C6H4N2
reactant | methanol | CO | CH4O
reactant | sodium borohydride | 3.0 mmol, 15 mg | [BH4-].[Na+]
reactant | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(6-Bromo-pyridin-2-yl)-propylamine | BrC1=CC=CC(=N1)C(CC)N | C8H11BrN2
